US04426381
9-Fluoro-8-(4-methyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid
8-Chloro-9-fluoro-5oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid (0.8 gram, 2.7 mmol) was dissolved in 5 ml of pyridine, then 2.7 grams (27 mmol) of N-methylpiperazine was added thereto, and the mixture was heated to reflux for forty eight hours. The content was concentrated under reduced pressure, water was added to the residue, and the insoluble matter was collected by filtration, washed with water, dried and recrystallized from dimethyl formamide to give 324 mg (42.0 percent) of the title compound, melting point 265° to 266° C. (decomposition). Elementary analyisis calculated as C17H18FN3O3S: C 56.19, H 4.99, N 11.56; Found: C 56.23, H 4.96, N 11.56.

reactant | 8-Chloro-9-fluoro-5oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 2.7 mmol, 0.8 gram | ClC1=CC=C2C(C(=C3N(C2=C1F)CCS3)C(=O)O)=O | C12H7ClFNO3S
reactant | N-methylpiperazine | 27 mmol, 2.7 grams | CN1CCNCC1 | C5H12N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 9-Fluoro-8-(4-methyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 324 mg, 42.0 percent | FC=1C(=CC=C2C(C(=C3N(C12)CCS3)C(=O)O)=O)N3CCN(CC3)C | C17H18FN3O3S
